US05173489
Following the procedure described in Example 608, Part C, 6.0 g (33 mmole) of 1,5-diazafluoren-9-one and 11.8 g (0.37 mole) of hydrazine were combined with 100 ml of diethyleneglycol and heated rapidly to 200°. The reaction was kept at this temperature for 30 minutes, then for 3 hours at 180°. Following the described workup, the crude yield was 4.69 g, m.p. 85°. Recrystallization from cyclohexane yields 4.0 g, m.p. 99°-100° of pure 1,5-diazafluorene.

reactant | 1,5-diazafluoren-9-one | 33 mmole, 6.0 g | N1=CC=CC=2C3=NC=CC=C3C(C12)=O | C11H6N2O
reactant | hydrazine | 0.37 mole, 11.8 g | NN | H4N2
solvent | diethyleneglycol | 100 ml | C(COCCO)O | C4H10O3
product | 1,5-diazafluorene | 4.0 g | N1=CC=CC=2C3=NC=CC=C3CC12 | C11H8N2
